US06258812B1
7-Acetamino-1-anilino-4-(4-pyridylmethyl)phthalazine hydrochloride
By analogy with Example 25, 250 mg (0.80 mmol) 7-acetamino-1-chloro-4-(4-pyridylmethyl)-phthalazine is reacted in 3.2 ml 1-butanol with 0.22 ml (2.4 mmol) aniline to obtain title compound: m.p.: 162-166° C.; HPLC: tRet(Grad5-40)=9.75; FAB MS (M+H)+=370.

reactant | 7-acetamino-1-chloro-4-(4-pyridylmethyl)-phthalazine | 0.80 mmol, 250 mg | N(C(=O)C)C1=CC=C2C(=NN=C(C2=C1)Cl)CC1=CC=NC=C1 | C16H13ClN4O
reactant | aniline | 2.4 mmol, 0.22 ml | NC1=CC=CC=C1 | C6H7N
solvent | 1-butanol | 3.2 ml | C(CCC)O | C4H10O
product | 7-Acetamino-1-anilino-4-(4-pyridylmethyl)phthalazine hydrochloride | Cl.N(C(=O)C)C1=CC=C2C(=NN=C(C2=C1)NC1=CC=CC=C1)CC1=CC=NC=C1 | InChI=1S/C22H19N5O.ClH/c1-15(28)24-18-7-8-19-20(14-18)22(25-17-5-3-2-4-6-17)27-26-21(19)13-16-9-11-23-12-10-16;/h2-12,14H,13H2,1H3,(H,24,28)(H,25,27);1H
